US08471005B2
Into an 8-dram vial, [1-(4-Amino-3-methoxy-benzyl)-piperidin-4-ol (0.102 g, 0.430 mmol), Trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (88.0 mg, 0.195 mmol), N,N-Diisopropylethylamine (0.0749 mL, 0.430 mmol), and 1-Methoxy-2-propanol (0.70 mL, 7.2 mmol) were added. The reaction mixture was heated at 120° C. for 6 hours. The solvent was removed under vacuum. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were lyophilized to give N-(2-{2-[4-(4-Hydroxy-piperidin-1-ylmethyl)-2-methoxy-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-N-methyl-methanesulfonamide a yellow solid (92 mg, 72%). LCMS (E/I+) 537.11 (M+H). NMR 1H (DMSO-d6)-9.16 (bs, 1H), 9.00 (s, 1H), 8.07-8.12 (m, 1H), 7.95-8.01 (m, 1H), 7.86 (s, 1H), 7.64-7.70 (m, 1H), 7.52-7.58 (m, 1H), 7.19 (d, 1H, J=9.96 Hz), 7.03 (d, 1H, J=4.60 Hz), 7.01 (d, 1H, J=4.60 Hz), 6.90-7.00 (m, 1H), 4.24 (dd, 2H, J=4.64, 16.65 Hz), 2.80-4.00 (m, 15H), 1.40-2.00 (m, 4H).

reactant | 1-(4-Amino-3-methoxy-benzyl)-piperidin-4-ol | 0.430 mmol, 0.102 g | NC1=C(C=C(CN2CCC(CC2)O)C=C1)OC | C13H20N2O2
reactant | Trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.195 mmol, 88.0 mg | CS(=O)(=O)N(C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F)C | C15H13F3N4O5S2
reactant | N,N-Diisopropylethylamine | 0.430 mmol, 0.0749 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Methoxy-2-propanol | 7.2 mmol, 0.70 mL | COCC(C)O | C4H10O2
product | N-(2-{2-[4-(4-Hydroxy-piperidin-1-ylmethyl)-2-methoxy-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-N-methyl-methanesulfonamide | OC1CCN(CC1)CC1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C)OC | C27H32N6O4S
